US04743290
N-[(4,6-Dimethoxypyrimidin-2-yl)aminocarbonyl]-3-(methoxymethyl)thiophene-2-sulfonamide
To 0.41 g of 3-(methoxymethyl)thiophene-2-sulfonamide and 0.55 g of phenyl N-(4,6-dimethoxypyrimidin-2-yl)carbamate in 20 mL of acetonitrile is added 0.3 mL of 1,8-diazabicyclo-[5.4.0]undec-7-ene (DBU). After being stirred for 2 hours at ambient temperature and pressure, the reaction mass is poured onto 25-50 g of ice and the resultant mixture acidified to pH 3 by the addition of hydrochloric acid. The desired solid product can be isolated by filtration. Alternatively, it can be extracted into methylene chloride which is then dried over magnesium sulfate, filtered and evaporated to dryness to yield the desired product is sufficiently pure form for the purposes of this invention.

reactant | 3-(methoxymethyl)thiophene-2-sulfonamide | 0.41 g | COCC1=C(SC=C1)S(=O)(=O)N | C6H9NO3S2
reactant | phenyl N-(4,6-dimethoxypyrimidin-2-yl)carbamate | 0.55 g | COC1=NC(=NC(=C1)OC)NC(OC1=CC=CC=C1)=O | C13H13N3O4
reactant | 1,8-diazabicyclo-[5.4.0]undec-7-ene | 0.3 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | N-[(4,6-Dimethoxypyrimidin-2-yl)aminocarbonyl]-3-(methoxymethyl)thiophene-2-sulfonamide | COC1=NC(=NC(=C1)OC)NC(=O)NS(=O)(=O)C=1SC=CC1COC | C13H16N4O6S2
